US08377949B2
To a solution of (S)-(2-amino-benzoylamino)-phenyl-acetic acid methyl ester (330 mg, 1.16 mmol) in THF (30 mL) is added trichloromethyl chloroformate (115 mg, 0.58 mmol). The mixture is stirred at 90° C. for 16 hours. The reaction mixture is allowed to cool to room temperature, diluted with EtOAc (100 mL) and is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate and concentrated to give the (S)-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenyl-acetic acid methyl ester (110 mg, 31%).

reactant | (S)-(2-amino-benzoylamino)-phenyl-acetic acid methyl ester | 1.16 mmol, 330 mg | COC([C@H](C1=CC=CC=C1)NC(C1=C(C=CC=C1)N)=O)=O | C16H16N2O3
reactant | trichloromethyl chloroformate | 0.58 mmol, 115 mg | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenyl-acetic acid methyl ester | 110 mg, 31% | COC([C@H](C1=CC=CC=C1)N1C(NC2=CC=CC=C2C1=O)=O)=O | C17H14N2O4
